US04895600
(Triethylenetetramine Phosphonate)
To a 1 liter 5 neck flask fitted with a reflux condenser and dropping funnel is added 234.3 grams (2 mole) 70% phosphorous acid. Triethylenetetramine, 146 grams (1 mole) is then added dropwise while stirring, followed by 146 grams (4 moles) anhydrous HCl. The mixture is then heated to reflux and 162.2 grams (2 moles) 37% aqueous formaldehyde is added dropwise over 1 hour. Reflux is maintained for 2 hours after formaldehyde addition is complete, after which the reaction mixture containing the amino methylene phosphonic acid product is cooled and bottled.

reactant | phosphorous acid | 2 mole, 234.3 grams | P(O)(O)O | H3O3P
reactant | Triethylenetetramine | NCCNCCNCCN | C6H18N4
reactant | HCl | 4 moles, 146 grams | Cl | ClH
reactant | formaldehyde | 2 moles, 162.2 grams | C=O | CH2O
product | Triethylenetetramine Phosphonate | P(O)(O)=O.NCCNCCNCCN | InChI=1S/C6H18N4.H3O3P/c7-1-3-9-5-6-10-4-2-8;1-4(2)3/h9-10H,1-8H2;4H,(H2,1,2,3)
